US07566723B2
4-{5-Acetyl-6-methyl-2-thioxo-1-[3-(trifiuoromethyl)phenyl]-1,2,3,4-tetrahydro-4-pyrimidinyl}benzonitrile
3-Trifluoromethylphenyl thiourea (200 mg, 0.91 mol), 4-cyanobenzaldehyde (238.2 mg, 1.82 mmol) and 2,4-pentanedione (181.9 mg, 1.82 mmol) are dissolved in 5 ml THF. Ethyl polyphosphate (0.30 g) is added and the reaction mixture is stirred at reflux temperature overnight. After cooling to room temperature, the reaction is quenched with 10 ml of water and extracted with 10 ml ethyl acetate (2×). The combined organic layers are dried with sodium sulfate and the solvent is removed in vacuo. The product is purified via preparative HPLC (RP18-column; eluent: acetonitrile-water, gradient 10:90 to 90:10).

reactant | 3-Trifluoromethylphenyl thiourea | 0.91 mol, 200 mg | FC(C=1C=C(C=CC1)NC(=S)N)(F)F | C8H7F3N2S
reactant | 4-cyanobenzaldehyde | 1.82 mmol, 238.2 mg | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 2,4-pentanedione | 1.82 mmol, 181.9 mg | CC(CC(C)=O)=O | C5H8O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-{5-Acetyl-6-methyl-2-thioxo-1-[3-(trifiuoromethyl)phenyl]-1,2,3,4-tetrahydro-4-pyrimidinyl}benzonitrile | C(C)(=O)C=1C(NC(N(C1C)C1=CC(=CC=C1)C(F)(F)F)=S)C1=CC=C(C#N)C=C1 | C21H16F3N3OS
